Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Sudafed / 
nitrofurantoin
 
Attending: ___
 
Chief Complaint:
C/O recent uti and treated with abx, was not tolerating the 
medication took for 3 days. Saw PCP, had labs drawn, called to 
er today as pt. states "liver enzymes are elevated." Full body 
discomfort. +chills/+fevers. Denies hematuria. +dizziness

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
In the ED, initial vital signs were: 96.7 148/79 97 16 100%RA 

She denies any Tylenol or OTC products other than allegra in the 
past week. Denies any EtOH in the last week. Drinks ___ drinks 
per week normally. Started on macrobid on ___.

Labs were notable for...  
Transaminitis AST 395 ALT 517 AP 318 Tbili 2.6 Dbili 1.9 INR 
Negative serum/urine drug screen, negative beta-HCG
RUQ ultrasound with no acute findings.
Patient was given
-4mg ondansetron
-1L NS
-1g ceftriaxone

On Transfer Vitals were:  97.8 132/80 76 18 100%RA

On the floor, she describes onset of chills, fatigue, nausea 
with clear emesis, fever measured to 102, whole body 
soreness/malaise, epigastric pain, dizziness, onset ___. Last 
dose of nitrofurantoin on ___ AM. Endorses current frontal 
headache, dull, similar to usual headaches. No pruritis. No 
rashes. No diarrhea or change in chronic constipation. No ___ 
colored stools. Took azithromycin (z-pack) for sinus infection 
on ___ (3 weeks prior to onset of current symptoms). 
Continues to have bladder pressure/tenderness and increased 
frequency, no dysuria. Last took fexofenadine 180mg once 4 days 
ago. 
 
Past Medical History:
Anxiety
Allergic rhinitis
GERD
h/o tubal pregnancy s/p tubal ligation

 
Social History:
___
Family History:
Mother - hypertension
Father - lung cancer
Maternal grandmother - liver cancer
No breast, colon, ovarian, cervical cancer, no CAD or DM
3 brothers with "fatty liver"
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals:  98.6 121/60 78 16 96%RA
General: WDWN, no acute distress
HEENT: EOMI, PERRLA, No scleral icterus, normal oropharynx 
without jaundice
Neck: Supple, no stridor, thyromegaly or lymphadenopathy
Lungs: Clear in all fields without rales or wheezing, no 
rhonchi, good air movement.
Cardiovascular: Regular rate and rhythm.  Normal S1 and S2, no
murmur appreciated.
Abdomen: soft, mild epigastric tenderness without rebound or 
guarding, mild suprapubic tenderness. No organomegaly or 
appreciable mass. No hepatosplenomegaly.
Back: no CVA tenderness
Extremities: No edema, 2+ pedal pulses
Neurologic: Cranial nerves III-XII are intact. No focal motor or
sensory deficits
knees, biceps, and brachial radialis bilaterally.
Skin: No rashes or lesions.

DISCHARGE PHYSICAL EXAM:
Vitals: 98.3 98.1 110/62 (103-126/54-71) 65 (65-78) 18 98%RA Wt 
96.3kg
General: WDWN, no acute distress
HEENT: EOMI, PERRLA, No scleral icterus, normal oropharynx 
without jaundice
Neck: Supple, no stridor, thyromegaly or lymphadenopathy
Lungs: Clear in all fields without rales or wheezing, no 
rhonchi, good air movement.
Cardiovascular: Regular rate and rhythm.  Normal S1 and S2, no
murmur appreciated.
Abdomen: soft, mild suprapubic tenderness to deep palpation 
without rebound or guarding. Mild tenderness to liver palpation. 
No organomegaly or appreciable mass. No hepatosplenomegaly.
Back: no CVA tenderness
Extremities: No edema, 2+ pedal pulses
Neurologic: Cranial nerves III-XII are intact. No focal motor or
sensory deficits
knees, biceps, and brachial radialis bilaterally.
Skin: No rashes or lesions.
 
Pertinent Results:
ADMISSION LABS:
===============

___ 02:59PM BLOOD WBC-6.4 RBC-4.74 Hgb-14.0 Hct-43.2 MCV-91 
MCH-29.5 MCHC-32.4 RDW-12.4 RDWSD-41.3 Plt ___
___ 02:59PM BLOOD Neuts-70.9 Lymphs-13.9* Monos-9.7 Eos-4.4 
Baso-0.8 Im ___ AbsNeut-4.54 AbsLymp-0.89* AbsMono-0.62 
AbsEos-0.28 AbsBaso-0.05
___ 09:40AM BLOOD ___ PTT-32.4 ___
___ 02:59PM BLOOD Creat-0.8
___ 02:59PM BLOOD ALT-328* AST-424* CK(CPK)-182 
AlkPhos-225* TotBili-1.4
___ 09:40AM BLOOD Albumin-4.2
___ 02:59PM BLOOD CRP-84.3*

OTHER PERTINENT/DISCHARGE LABS:
===============================

___ 06:10AM BLOOD WBC-7.8# RBC-4.12 Hgb-12.4 Hct-38.2 
MCV-93 MCH-30.1 MCHC-32.5 RDW-12.9 RDWSD-43.8 Plt ___
___ 06:10AM BLOOD Neuts-57.1 ___ Monos-8.6 Eos-5.1 
Baso-0.9 Im ___ AbsNeut-4.48# AbsLymp-2.19 AbsMono-0.67 
AbsEos-0.40 AbsBaso-0.07
___ 05:40AM BLOOD Glucose-94 UreaN-15 Creat-0.7 Na-142 
K-3.9 Cl-105 HCO3-27 AnGap-14
___ 06:10AM BLOOD ALT-258* AST-57* LD(LDH)-187 AlkPhos-225* 
TotBili-0.4
___ 05:40AM BLOOD ALT-398* AST-166* LD(LDH)-274* 
AlkPhos-282* TotBili-0.8 DirBili-0.4* IndBili-0.4
___ 09:40AM BLOOD ALT-517* AST-395* AlkPhos-318* 
TotBili-2.6* DirBili-1.9* IndBili-0.7
___ 09:05PM BLOOD GGT-538*
___ 05:40AM BLOOD Albumin-3.9 Calcium-9.3 Phos-4.0 Mg-2.2
___ 09:05PM BLOOD %HbA1c-5.5 eAG-111
___ 09:05PM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative IgM HAV-Negative
___ 09:05PM BLOOD AMA-PND Smooth-PND
___ 09:05PM BLOOD ___
___ 02:59PM BLOOD CRP-84.3*
___ 05:40AM BLOOD IgG-988
___ 09:05PM BLOOD HCV Ab-Negative

___ 11:50AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:50AM URINE Blood-SM Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___:50AM URINE RBC-6* WBC-<1 Bacteri-FEW Yeast-NONE 
Epi-0
___ 11:50AM URINE Hours-RANDOM
___ 11:50AM URINE UCG-NEGATIVE
___ 11:50AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

IMAGING:
========

___ - RUQ ultrasound
1.  No acute findings.  
2.  Mild fatty liver.  Echogenic liver consistent with 
steatosis. Other forms of liver disease and more advanced liver 
disease including steatohepatitis or significant hepatic 
fibrosis/cirrhosis cannot be excluded on this study. 

Microbiology
=============
___: HCV VIRAL LOAD (Pending)
___: HBV Viral Load (Pending)
 
Brief Hospital Course:
___ with hypertension, allergic rhinitis, recent E. coli UTI on 
nitrofurantoin since ___ who presented with malaise, chills, 
fevers, dizziness, and found to have 
Transaminitis/hyperbilirubinemia.

# Drug-induced liver injury
-Underlying steatosis seen on RUQ ultrasound, likely predisposed 
to worse injury from nitrofurantoin. No coagulopathy. Pt took 5 
day course of azithromycin 3 weeks prior to presentation, 
however correlation of LFT improvement with nitrofurantoin 
cessation as well as pattern of injury are consistent with DILI 
from nitrofurantoin. Hepatitis B non-immune, HCV serology 
negative. Autoimmune studies pending at discharge as well as 
HCV/HBV viral loads. HgA1C normal. Unlikely hemochromatosis 
given prior normal iron studies.

# UTI
- E. coli on culture, still symptomatic on admission. Completed 
ceftriaxone 1g q24H x 3 days. Phenazopyrimidine for symptomatic 
relief.

# Anxiety: Well controlled on her current medication regimen of 
sertraline 100mg and lorazepam 1mg PO QID PRN
-initially held due to potential 
transaminitis/hyperbilirubinemia side effect, but restarted 
after recovery and no subsequent worsening of LFTs observed

# Headache - likely tension, responded to ibuprofen 400mg x1

TRANSITIONAL ISSUES:
-nitrofurantoin listed as allergy in OMR, caused hepatocellular 
pattern of injury
-check LFTs with PCP ___ to evaluate for continued resolution
-outpatient hepatology follow-up for steatosis
-The following labs were pending at discharge:
 ___, ANTI-MITOCHONDRIAL ANTIBODY, ANTI-SMOOTH MUSCLE ANTIBODY
 IgG, IMMUNOLOGY HBV Viral Load, IMMUNOLOGY HCV VIRAL LOAD
-Full code
-No HCP, pt wishes fiancé ___ ___ and daughter 
___ ___ to be in agreement on medical 
decisions
-recommend ongoing discussion of HCP
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO Q6H:PRN anxiety 
2. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1. LORazepam 1 mg PO Q6H:PRN anxiety 
2. Sertraline 100 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Drug-induced liver injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___. You were recently admitted with elevated liver 
enzymes. You underwent laboratory testing and an ultrasound of 
your liver. The reaction was likely due to the antibiotic, 
nitrofurantoin. You should not take this medication ever again. 
Your liver ultrasound showed a fat in your liver, and you should 
follow up with a liver doctor (___) as an outpatient.

Please continue to take your medications as prescribed and keep 
your follow-up appointments. 

It was a pleasure caring for you.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___